US05360800
N-[(1-Methyl-1H-indol-2-yl)ethyl]trifluoroacetamide
A solution of 2-(1-methyl-1H-indol-2-yl)ethanamine (3.48 g) in dry dichloromethane (50 ml) containing triethylamine (2.53 g) was cooled in an ice bath, and trifluoroacetic anhydride (5.25 g) was added dropwise over 15 min. The mixture was then allowed to warm to room temperature and stirred for an additional 3 h. After this time the reaction mixture was poured into water (100 ml), the organic phase was separated, and the aqueous phase was washed with dichloromethane (2×50 ml). The combined, dried organic extracts were concentrated onto FCC silica and purification by FCC eluting with ether gave the title compound (4.2 g) as a solid. A sample of this compound was further purified by slow evaporation from a solution in dichloromethane, m.p. 124°-126°.

reactant | 2-(1-methyl-1H-indol-2-yl)ethanamine | 3.48 g | CN1C(=CC2=CC=CC=C12)CCN | C11H14N2
reactant | triethylamine | 2.53 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 5.25 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[(1-Methyl-1H-indol-2-yl)ethyl]trifluoroacetamide | 4.2 g | CN1C(=CC2=CC=CC=C12)CCNC(C(F)(F)F)=O | C13H13F3N2O
